### PR TITLE
feat: Formal Verification for updated circuits

### PR DESCRIPTION
**Pull request by kustosz**
All circuits are verified for the properties we'd expect from them. See `Main.lean` for details

### CODE REVIEW

File: prover/server/formal-verification/Main.lean [hunk 1]
```diff
@@ -11,36 +11,235 @@ theorem poseidon₂_testVector :
...
+  intro i hi
+  have := indices_empty i hi
+  simp [←this]
+  congr
+  rw [Nat.mod_eq_of_lt]
+  linarith [hi.2]
+
+theorem inputHash_deterministic:
+    LightProver.BatchAddressTreeAppendCircuit_8_8_8_26_8_8_26_8_8_26 h₁ oldRoot newRoot lhh₁ startIndex lev₁ lenv₁ lei₁ lep₁ elements nep₁ ∧
+    LightProver.BatchAddressTreeAppendCircuit_8_8_8_26_8_8_26_8_8_26 h₂ oldRoot newRoot lhh₂ startIndex lev₂ lenv₂ lei₂ lep₂ elements nep₂ →
```
Comment (ananas-block) [inline prover/server/formal-verification/Main.lean:222]: note:
address trees will have height 40 but that shouldn't make a difference right?

File: prover/server/formal-verification/Main.lean [hunk 2]
```diff
@@ -11,36 +11,235 @@ theorem poseidon₂_testVector :
...
+  simp [treeAppends_sound_and_complete]
+  apply Iff.intro
+  · tauto
+  · rintro ⟨_, t, _⟩
+    use t
+    tauto
+
+theorem inputHash_deterministic:
+    LightProver.BatchAppendWithProofsCircuit_8_8_26_8_26_8 h₁ oldRoot newRoot p₁ startIndex p₂ leaves p₃ ∧
+    LightProver.BatchAppendWithProofsCircuit_8_8_26_8_26_8 h₂ oldRoot newRoot q₁ startIndex q₂ leaves q₃ →
```
Comment (ananas-block) [inline prover/server/formal-verification/Main.lean:144]: note:
state trees will have height 32 but that shouldn't make a difference right?

**Review by ananas-block — APPROVED** [review]
